US06403561B1
Preparation of 5-chloroindoline-2(R/S)-carboxylic Acid Butylamide
Methyl 5-chloroindoline-2(R/S)-carboxylate (0.63 g, 3 mmol) was dissolved in butylamine (25 ml) and refluxed for 4 h. The excess amine was removed and the residue was crystallized from ether to give a yellow solid.

reactant | Methyl 5-chloroindoline-2(R/S)-carboxylate | 3 mmol, 0.63 g | ClC=1C=C2CC(NC2=CC1)C(=O)OC | C10H10ClNO2
solvent | butylamine | 25 ml | C(CCC)N | C4H11N
product | 5-chloroindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=C(C=C2C1)Cl | C13H17ClN2O
